US07304081B2
(1R)-1′-({1-[4-(6-Hydroxypyridin-3-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one
A mixture of (1R)-1′-({1-[4-(6-fluoropyridin-3-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one (20.0 mg, 0.0000467 mol, see example 250 for the preparation), and ammonium acetate (0.0216 g, 0.000280 mol) in dimethyl sulfoxide (0.5 mL, 0.007 mol) and water(0.1 mL) was heated at 100° C. in a sealed tube overnight. The major product was the phenol rather than the aniline derivative. The product was isolated and purified by prep-HPLC. LC-MS: 427.2 (M+H+)

reactant | (1R)-1′-({1-[4-(6-fluoropyridin-3-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | FC1=CC=C(C=N1)C1=CC=C(C=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O | C26H21FN2O3
reactant | ammonium acetate | 0.000280 mol, 0.0216 g | C(C)(=O)[O-].[NH4+]
reactant | dimethyl sulfoxide | 0.007 mol, 0.5 mL | CS(=O)C | C2H6OS
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | aniline | NC1=CC=CC=C1 | C6H7N
solvent | water | 0.1 mL | O | H2O
product | (1R)-1′-({1-[4-(6-Hydroxypyridin-3-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | OC1=CC=C(C=N1)C1=CC=C(C=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O | C26H22N2O4
